US05109131
To a mixture of tert-butyl alcohol [741.2 g] and 4-(dimethylamino)pyridine [6.1 g] was added dropwise diketene [840.7 g] at 50° to 60° C. in the course of one hour while stirring. The stirring was continued for one further hour at 30° to 50° C. To the colorless and clear reaction mixture thus obtained was added acetic acid [1501 g]. To the resultant solution was added dropwise a solution of sodium nitrite [773.2 g] in water [1.35 l] at 5° to 9° C. in the course of 1.5 hour, followed by stirring for 1.5 hour at 8° to 18° C. To the reaction mixture were added toluene [1.42 l] and a 5% aqueous solution of sodium chloride [1.3 l], to which was then added sodium hydroxide [600 g] in water [ 1.1 l] to render the pH to 6.7. The reaction mixture was separated into two layers, and the aqueous layer was subjected to extraction with toluene (0.7 l). The extract was combined with the toluene layer and washed with a 5% aqueous solution of sodium chloride (1.2 l), from which toluene was distilled off under reduced pressure to leave crude product of tert-butyl 2-hydroxyimino-3-oxobutyrate as a viscous oily substance.

reactant | diketene | 840.7 g | C=C1CC(=O)O1 | C4H4O2
reactant | sodium nitrite | 773.2 g | N(=O)[O-].[Na+]
reactant | sodium chloride | 1.3 l | [Cl-].[Na+]
reactant | sodium hydroxide | 600 g | [OH-].[Na+]
reactant | toluene | 1.42 l | C1(=CC=CC=C1)C | C7H8
catalyst | 4-(dimethylamino)pyridine | 6.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 1.35 l | O | H2O
solvent | water | 1.1 l | O | H2O
solvent | acetic acid | 1501 g | C(C)(=O)O | C2H4O2
solvent | tert-butyl alcohol | 741.2 g | C(C)(C)(C)O | C4H10O
product | tert-butyl 2-hydroxyimino-3-oxobutyrate | ON=C(C(=O)OC(C)(C)C)C(C)=O | C8H13NO4
